US05389640
N-Butyl-3-nitro-4-quinolinamine
Using the general method of Example 41, 4-hydroxy-3-nitroquinoline (38.4 g, 0.2 moles) was chlorinated then reacted with n-butylamine (24.7 mL, 0.4 mole) to provide the desired product as a yellow sold.

reactant | 4-hydroxy-3-nitroquinoline | 0.2 moles, 38.4 g | OC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | n-butylamine | 0.4 mole, 24.7 mL | C(CCC)N | C4H11N
product | N-Butyl-3-nitro-4-quinolinamine | C(CCC)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H15N3O2
